US08049013B2
2-(4-Chloro-phenyl)-5-[4-(1-cyclopropyl-azetidin-3-yloxy)-3-methoxy-phenyl]-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt
Mix molecular sieves (100 mg, type 3A), 5-[4-(azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-5H-thiazolo[5,4-c]pyridin-4-one (1.00 g, 2.27 mmol), and [(1-ethoxycyclopropyl)oxy]trimethylsilane (688.3 μL, 3.41 mmol), and acetic acid (651.3 μL, 11.37 mmoles) in dry methanol (11 mL) and reflux the mixture for 3 h. Cool the reaction to room temperature, then add sodium cyanoborohydride (376 mg, 5.68 mmoles) and slowly warm to 40° C. for one hour. Cool the mixture and add 1 N NaOH solution, then extract the aqueous layer with CHCl3 (3×25 mL). Dry the organic layer with Na2SO4, filter, and concentrate. Purify the crude material on silica gel chromatography using a gradient of 0-10% 2 N NH3/MeOH in CHCl3. Collect the desired fractions and remove the solvent via reduced pressure. Re-dissolve the resulting material in CHCl3 and add 1 N HCl/Et2O solution (2.27 mL). Remove the solvent and dry under vacuum to give 408 mg (35%) of the title compound. ES/MS m/z (35Cl) 480.0 [M+1]+.

reactant | 5-[4-(azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-5H-thiazolo[5,4-c]pyridin-4-one | 2.27 mmol, 1.00 g | N1CC(C1)OC1=C(C=C(C=C1)N1C(C2=C(C=C1)N=C(S2)C2=CC=C(C=C2)Cl)=O)OC | C22H18ClN3O3S
reactant | [(1-ethoxycyclopropyl)oxy]trimethylsilane | 3.41 mmol, 688.3 μL | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | acetic acid | 11.37 mmoles, 651.3 μL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 5.68 mmoles, 376 mg | C(#N)[BH3-].[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | methanol | 11 mL | CO | CH4O
product | 2-(4-Chloro-phenyl)-5-[4-(1-cyclopropyl-azetidin-3-yloxy)-3-methoxy-phenyl]-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt | 408 mg, 35% | Cl.ClC1=CC=C(C=C1)C=1SC=2C(N(C=CC2N1)C1=CC(=C(C=C1)OC1CN(C1)C1CC1)OC)=O | InChI=1S/C25H22ClN3O3S.ClH/c1-31-22-12-18(8-9-21(22)32-19-13-28(14-19)17-6-7-17)29-11-10-20-23(25(29)30)33-24(27-20)15-2-4-16(26)5-3-15;/h2-5,8-12,17,19H,6-7,13-14H2,1H3;1H
